US20010047026A1
10,10-Dimethyl-3-nitro-5,10-dihydro-indeno[1,2-b]indole-6-carboxylic acid
6-Nitro-3,3-dimethyl-1-indanone (0.612 g, 2.98 mmol) [Smith, J. G. et al. Org. Prep. and Proc. Int. 1978, 10(3), 123-131] and 2-hydrazinobenzoic acid hydrochloride (0.562 g, 2.98 mmol) in formic acid (2 mL, 96%) were irradiated for two minutes in a closed cap Teflon vessel of a microwave oven (700 W). The mixture was vacuum filtered, and the crude product was chromatographed (hexane/ethyl acetate 1:1) and triturated with petroleum ether/diethyl ether. Drying in vacuo afforded 0.178 g (19%) of the title compound as a yellow solid:

reactant | 6-Nitro-3,3-dimethyl-1-indanone | 2.98 mmol, 0.612 g | [N+](=O)([O-])C1=CC=C2C(CC(C2=C1)=O)(C)C | C11H11NO3
reactant | 2-hydrazinobenzoic acid hydrochloride | 2.98 mmol, 0.562 g | Cl.N(N)C1=C(C(=O)O)C=CC=C1
solvent | formic acid | 2 mL | C(=O)O | CH2O2
product | 10,10-Dimethyl-3-nitro-5,10-dihydro-indeno[1,2-b]indole-6-carboxylic acid | 0.178 g, 19% | CC1(C2=CC=C(C=C2C=2NC3=C(C=CC=C3C21)C(=O)O)[N+](=O)[O-])C | C18H14N2O4
